Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
nortriptyline / nortriptyline / tramadol
 
Attending: ___.
 
Chief Complaint:
Pelvic pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo G3P3 with a history of a Roux-en-Y gastric 
bypass who was transferred from ___ ED for 
generalized abdominal pain with right sided colitis and new 
pelvic mass on abdominal CT. ___ night she suddenly developed 
"horrible stomach pain with intense cramping everywhere." The
pain was constant with intermittent periods where it would 
worsen. Symptoms worse with eating and movement. Felt incredibly 
bloated yesterday. Took GasX, but no improvement. Went to see 
PCP ___ in ___ on ___ who then referred her for CT. 

CT revealed the following: inflammatory changes adjacent to the 
cecum and ascending colon are nonspecific but may represent 
colitis/diverticulitis. Tip appendicitis is unlikely but not 
excluded. Etiology is indeterminate although right-sided colitis 
is suspected, possibly diverticulitis although detail is 
limited. Early appendicitis of the tip of the appendix is 
unlikely but
difficult to exclude. Also showed, "mass like soft tissue 
density filling the cul-de-sac and extending to the adnexum 
bilaterally. This measures approximately 4.5x8.6x8.1 cm. This is 
concerning for solid pelvic mass. Complex fluid such as 
hemorrhagic fluid is unlikely but not excluded. There are cystic 
components in the adnexae. The ovaries and posterior margin of 
the uterus are
obscured. There are some prominent draining uterine veins on the 
left as before etiology of these findings is indeterminate by CT 
scan. This is not typical of uterine fibroids. There is a 
component of a uterine cysts with complex cysts including 2.3 x 
1.5 cm complex right ovarian cyst. Uterine or ovarian pathology
including malignancy or inflammatory process must be excluded."
Of note, she had a pelvic/abdominal CT in ___ for RLQ pain, 
which did not reveal a pelvic mass. 

 
Past Medical History:
Past Medical History:
- Migraines
- Sciatics
- Nephrolithiasis, multiple episodes, right sided, always
conservatively managed
- Gastric bypass, Roux-en-Y, ___
- Anxiety/depression
- Fibromyalgia
- h/o partial small bowel obstruction , ?___, conservatively
managed  
- IBS
- Anemia, h/o Fe infusions 

Past Surgical History:
- Gastric bypass, Roux-en-Y 
- Right knee surgery
- Laparoscopic Cholecystectomy 
- Right shoulder repair 
- Uterine ablation 
- Nose fracture repair 

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
General: NAD, uncomfortable, increased discomfort with 
ambulation
CV: RRR
Resp: CTAB
Abd: soft, minimally distended, fullness in lower middle abdomen 
several cm's below umbilicus with good mobility, no discrete 
mass palpated, moderate tenderness of lower middle abdomen with 
deep palpation, no rebound, positive voluntary guarding
Pelvic: normal external genitalia, normal vaginal mucosa, 
moderate thick white discharge, likely physiologic, normal 
cervix without lesions, no blood in vault, on bimanual fullness 
along uterine midline with moderate tenderness, no CMT, nor 
adnexal fullness or tenderness
Rectal: no rectal-vaginal mass or nodularity, mass not palpated 
Ext: non-tender, no edema 
Msk: no CVA tenderness 
Lymphatics: no clavicular or neck lymphadenopathy, inguinal 
canal not palpated 
 
Pertinent Results:
___ 03:59PM BLOOD WBC-4.9 RBC-4.10 Hgb-11.8 Hct-36.4 MCV-89 
MCH-28.8 MCHC-32.4 RDW-12.8 RDWSD-41.6 Plt ___
___ 11:00PM BLOOD Neuts-64.2 ___ Monos-8.2 Eos-1.0 
Baso-0.6 Im ___ AbsNeut-3.99 AbsLymp-1.60 AbsMono-0.51 
AbsEos-0.06 AbsBaso-0.04
___ 11:00PM BLOOD Glucose-86 UreaN-7 Creat-0.6 Na-139 
K-5.7* Cl-104 HCO3-22 AnGap-13
___ 11:14PM BLOOD Lactate-0.8 K-4.6

MRI PELVIS ___
UTERUS AND ADNEXA: Te uterus is anteverted and measures 8.4 x 
4.6 x 5.3 cm. The inferior aspect of the endometrium is normal 
in thickness measuring 4 mm.  The upper portion of the 
endometrium is not well seen.  Uterine zonal anatomy is also not 
well visualized, limiting evaluation for adenomyosis.  No 
fbroids are identified. There is T2 hypointense irregular 
thickening of the uterosacral ligaments bilaterally (series 5, 
image 16).  Similar irregular thickening noted of the visualized 
peritoneum diffusely.  Vaginal wall also demonstrates irregular 
abnormal low signal intensity.  While no T1 hyperintense 
endometrial deposits  or endometriomas are identified, findings 
are highly concerning for endometriosis. There is T2 
intermediate intensity and T1 intermediate intensity fluid in 
the  pelvis, corresponding to the findings on CT scan, 
consistent with hemorrhagic  fluid.  Relative intensity of the 
fluid suggests a degree of chronicity. 
The left ovary is unremarkable (series 5, image 11).  Along the 
posterior 
aspect of the right ovary is a thickened T2 hypointense rim with 
a fibrous 
band (series 5, image 12), also suggestive of endometriosis.  
Note is made of 1.2 x 1.3 cm right paraovarian and 1.3 x 1.1 cm 
left para ovarian cysts 
(series 5, image 14). There is no enlarged pelvic sidewall 
adenopathy.  Pelvic bowel loops are grossly unremarkable. There 
is no suspicious bony lesion.  Superficial soft tissues are 
unremarkable. 
  
IMPRESSION: 
1. Nodular thickening of the peritoneum, uterosacral ligaments, 
the posterior aspect of the right ovary, and vaginal cuff, 
findings highly concerning for endometriosis. 
2.  Hemorrhagic fluid in the pelvis with the overall signal 
intensity of the blood products suggesting chronicity, these 
findings correspond to the apparent mass on pelvic CT. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to GYN for pain control 
and further workup of pelvic pain. Outside hospital CT suggested 
a possible pelvic mass; however, pelvic MRI showed hemorrhagic 
material consistent with ruptured cyst and endometriosis, rather 
than a solid mass. Her pain was controlled on oral dilaudid, 
ibuprophen, and acetaminophen. She tolerated a regular diet and 
was discharged on ___ with close GYN follow-up.
 
Medications on Admission:
- Fioricet
- Vitamin D
- Trazodone 50 mg QHS
- Aloprazolam 0.5 mg PRN 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not take more than 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ capsule(s) by mouth q6h PRN Disp 
#*60 Capsule Refills:*0 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
___ cause drowsiness. Do not drive or drink alcohol while 
taking.  
RX *hydromorphone 2 mg ___ tablet(s) by mouth q4h prn Disp #*20 
Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth q6h prn Disp #*60 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal/pelvic pain consistent with endometriosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___